US05387603
To a solution of (R)-(-)-1-(4-benzyloxybutyl)-5-[2-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethylamino]propyl]indoline-7-carboxamide (200 mg) in ethanol (3.3 ml) were added a 1N hydrochloric acid (0.8 ml) and 10% palladium on carbon (20 mg), and the mixture was stirred at room temperature for 4 hours under an atmosphere of hydrogen. After the catalyst was filtered off, the filtrate was concentrated under reduced pressure. To the concentrate were added water (12 ml) and sodium carbonate (106 mg), and the mixture was stirred for overnight at room temperature. The precipitated crystals were collected, washed with water, and dried at 50° C. under reduced pressure to give 160 mg of (R)-(-)-1-(4-hydroxybutyl)-5-[2-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethylamino]propyl]indoline-7-carboxamide melting at 116°-118° C.

reactant | (R)-(-)-1-(4-benzyloxybutyl)-5-[2-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethylamino]propyl]indoline-7-carboxamide | 200 mg | C(C1=CC=CC=C1)OCCCCN1CCC2=CC(=CC(=C12)C(=O)N)C[C@@H](C)NCCOC1=C(C=CC=C1)OCC(F)(F)F | C33H40F3N3O4
reactant | hydrochloric acid | 1N, 0.8 ml | Cl | ClH
solvent | ethanol | 3.3 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | (R)-(-)-1-(4-hydroxybutyl)-5-[2-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethylamino]propyl]indoline-7-carboxamide | 160 mg | OCCCCN1CCC2=CC(=CC(=C12)C(=O)N)C[C@@H](C)NCCOC1=C(C=CC=C1)OCC(F)(F)F | C26H34F3N3O4
